US03937833
To 200 ml of water containing 16.0 g (0.4 mole) of sodium hydroxide and 15.7 g (0.067 mole) of 3,9-dihydroxyfluoranthene are added 200 ml of toluene and 29.8 (0.15 mole) of 3-piperidinopropyl chloride hydrochloride and the heterogeneous reaction mixture is stirred at reflux for 24 hours. After cooling, the organic layer is washed with water, dried over magnesium sulfate, and concentrated in vacuo. The residue is crystallized from ether to give 3,9-bis(3-piperidinopropoxy)fluoranthene, M.P. 92°-93°C.

reactant | water | 0.4 mole, 200 ml, 16.0 g | O | H2O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | 3,9-dihydroxyfluoranthene | 0.067 mole, 15.7 g | OC=1C=CC=2C3=CC(=CC=C3C3=CC=CC1C23)O | C16H10O2
reactant | 3-piperidinopropyl chloride hydrochloride | Cl.N1(CCCCC1)CCCCl
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | 3,9-bis(3-piperidinopropoxy)fluoranthene | N1(CCCCC1)CCCOC=1C=CC=2C3=CC(=CC=C3C3=CC=CC1C23)OCCCN2CCCCC2 | C32H40N2O2
